### PR TITLE
define cdf (cumulative distributive function)

### PR DESCRIPTION
**Pull request by Yosuke-Ito-345**
##### Motivation for this change

- introduce the cumulative distribution function

- prove some basic facts on the cumulative distributive function

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Comment by Yosuke-Ito-345** [comment]
I have mistakenly opened this new pull request #1502.
(I closed the previous one #1501.)
But this one #1502 seems fine, so I hope it would be reviewed.

File: theories/probability.v [hunk 1]
```diff
@@ -146,6 +146,96 @@ Proof. by move=> mf intf; rewrite integral_pushforward. Qed.
...
+Lemma cdf_le1 r : (cdf X r <= 1)%E.
+Proof. rewrite /cdf; exact: probability_le1. Qed.
+
+Lemma cdf_nondecreasing : nondecreasing_fun (cdf X).
+Proof.
+rewrite /cdf=> r s ?.
+by apply: le_measure; rewrite ?inE; [apply: measurable_itv ..| apply: subitvPr].
+Qed.
+
+Lemma cdf_cvgr1_pinfty : (cdf X r)@[r --> +oo%R] --> 1%E.
```
Comment (t6s) [inline theories/probability.v:172]: - The scope delimiter `%R` can be removed.
- Better to rename to a shorter name `cdf_cvgr1y` or `cdf_cvgry1` ?
  (I am not sure about the correct naming convention and need suggestions from @CohenCyril @affeldt-aist )

File: theories/probability.v [hunk 2]
```diff
@@ -146,6 +146,96 @@ Proof. by move=> mf intf; rewrite integral_pushforward. Qed.
...
+Proof.
+pose s := ereal_sup (range (cdf X)).
+have cdf_s : (cdf X r)@[r --> +oo%R] --> s.
```
Comment (t6s) [inline theories/probability.v:175]: `%R` can be removed in the proof script too.

File: theories/probability.v [hunk 3]
```diff
@@ -146,6 +146,96 @@ Proof. by move=> mf intf; rewrite integral_pushforward. Qed.
...
+  apply=> //; [by move=> ?; apply: measurable_sfunP | move=> n m n_lem //=].
+  apply /subsetPset; apply: preimage_subset=> x; rewrite !set_itvE /=.
+  by move: n_lem => /[swap]; rewrite -(ler_nat R); apply: le_trans.
+rewrite (_ : 1%E = s) //.
+move: (@cvg_unique _ (@ereal_hausdorff R)
+    (nbhs (fmap (fun n:nat => cdf X n%:R) \oo))).
+by rewrite /is_subset1; apply.
+Qed.
+
+Lemma cdf_cvgr0_ninfty: (cdf X r)@[r --> -oo%R] --> 0%E.
```
Comment (t6s) [inline theories/probability.v:198]: `cdf_cvgr0Ny` or `cdf_cvgrNy0` ?

File: theories/probability.v [hunk 4]
```diff
@@ -146,6 +146,96 @@ Proof. by move=> mf intf; rewrite integral_pushforward. Qed.
 
 End transfer_probability.
 
+Definition cdf d (T : measurableType d) (R : realType) (P : probability T R)
+  (X : {RV P >-> R}) (r : R) := distribution P X (`]-oo, r]).
+
+Section cumulative_districution_function.
```
Comment (t6s) [inline theories/probability.v:152]: typo: "districution" -> "distribution"

File: theories/probability.v [hunk 5]
```diff
@@ -146,6 +146,96 @@ Proof. by move=> mf intf; rewrite integral_pushforward. Qed.
 
 End transfer_probability.
 
+Definition cdf d (T : measurableType d) (R : realType) (P : probability T R)
```
Comment (t6s) [inline theories/probability.v:149]: Can you move this definitions into the section below?

**Review by t6s — COMMENTED** [review]
Thank you so much for the contribution. Looks almost good.
I have added several comments.  Can you take a look at them?
I would also suggest adding header comments
```
(*              cdf X r := cumulative distribution function of X              *)
(*                         (= distribution P X (`]-oo, r]))                   *)
```
below the line for `pmf X r`.

**Comment by Yosuke-Ito-345** [comment]
@t6s 
Thank you for the review.
I have modified my code according to your suggestions.
Now the auto check has started...

**Comment by affeldt-aist** [comment]
@Yosuke-Ito-345 It looks like you PRed your master branch. You maybe want to avoid this because maintainers might try to push on your master branch.

**Comment by Yosuke-Ito-345** [comment]
@affeldt-aist 
Thank you for the pointer.
As you point out, I have sent the pull request from my master branch. \\(^^)/
This time it is OK for the maintainers to push on my master branch, because I `git checkout` a new branch on my local computer.
But it seems an abnormal style, so next time I will send my pull request from a different branch.
Sorry for my immature literacy on GitHub.

**Comment by affeldt-aist** [comment]
Isn't a cdf supposed to be right continuous? I am asking because there is a definition of cumulative function that has been introduced in the file `lebesgue_stieltjes.v` and it would be nice to have your contribution and this definition of cumulative function related somehow.

**Comment by Yosuke-Ito-345** [comment]
Exactly. The `cdf` is `Cumulative` in the sense of `lebesgue_stieltjes_measure.v`.
However, it is slightly different because the codomain of `cdf` is `\bar R` whereas the second parameter of `isCumulative` is of type `R -> R`.
In the future application, we will use the Lebesgue-Stieltjes measure of `cdf`s. Maybe I should change the type of `cdf` to `R -> R`?

**Comment by Yosuke-Ito-345** [comment]
It may be natural to define `cdf` to be of type `R -> \bar R`, so could you merge this pull request for now?
I think modifying the codomain of `cdf` from `\bar` to `R` is not so difficult.

**Comment by affeldt-aist** [comment]
I have PRed to your PR because I cannot push to your master: https://github.com/Yosuke-Ito-345/analysis/pull/2

**Comment by affeldt-aist** [comment]
> Isn't a cdf supposed to be right continuous?

Shouldn't this be proved along this PR?

**Comment by Yosuke-Ito-345** [comment]
@affeldt-aist 
Thank you very much for the review. I merged your pull request. (Sorry for the inconvenience.)
I also agree that the right-continuity should be proved along this pull request. I will work on and update this pull request.

**Comment by Yosuke-Ito-345** [comment]
@affeldt-aist @t6s 
After I pushed my modified master branch, this pull request was automatically closed. This situation was totally unexpected...
I apologize for the repeated inconvenience, but should I open another pull request?

**Comment by t6s** [comment]
I'm not good at GitHub either and do not know how to recycle a closed PR. There will be no problem opening a new one.

**Comment by affeldt-aist** [comment]
> There will be no problem opening a new one.

But this time do not open the PR from your master (though I am not even sure that this is the reason for unexpected closing...).

**Comment by Yosuke-Ito-345** [comment]
@affeldt-aist @t6s 
Thank you very much for the comments. I will open a new pull request, with the very care not to push my master branch...

**Comment by Yosuke-Ito-345** [comment]
continues to #1542
